US04433152
A mixture of 2.4 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 1.1 g of thiophenol, 2.1 g of dicyclohexylcarbodiimide and 15 ml of dry dimethylformamide was stirred at room temperature for 17 hours. After removal of any insoluble materials, the solvent was removed. The residue was washed with ether and then with t-butanol to obtain 1.2 g (yield: 36.4%) of phenylthio 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 168° to 170° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 2.4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | thiophenol | 1.1 g | C1(=CC=CC=C1)S | C6H6S
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | phenylthio 1-amidino-4-piperidinepropionate hydrochloride | 1.2 g, yield: 36.4% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OSC1=CC=CC=C1 | InChI=1S/C15H21N3O2S.ClH/c16-15(17)18-10-8-12(9-11-18)6-7-14(19)20-21-13-4-2-1-3-5-13;/h1-5,12H,6-11H2,(H3,16,17);1H
